US06462083B1
A vaginal suppository comprising erucic acid, beeswax, and the medicine miconazole was prepared as follows: About 12.30 kg of micronized miconazole nitrate was added to a homogenous melt containing about 62.10 kg of erucic acid and about 6.90 kg of beeswax at a temperature of about 75° C. The medicine and suppository base was mixed gently until homogenous then poured into a mold. Upon cooling the suppository was removed from the mold.

reactant | erucic acid | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)O | C22H42O2
reactant | miconazole nitrate | 12.30 kg | C1=CC(=C(C=C1Cl)Cl)COC(CN2C=CN=C2)C=3C=CC(=CC3Cl)Cl.[N+](=O)(O)[O-]
reactant | erucic acid | about 62.10 kg | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)O | C22H42O2
product | miconazole | C1=CC(=C(C=C1Cl)Cl)COC(CN2C=CN=C2)C=3C=CC(=CC3Cl)Cl | C18H14Cl4N2O
